Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Naproxen / Sulfa (Sulfonamide Antibiotics) / Percocet 
/ ibuprofen
 
Attending: ___.
 
Chief Complaint:
Pain control post uterine fibroid embolization

 
Major Surgical or Invasive Procedure:
___ Ablation of uterine fibroids

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
fibromyalgia, atypical ductal hyperplasia on tamoxifen, chronic 
back pain, and symptomatic uterine fibroids, SLE (unclear 
diagnosis per OMR), admitted post uterine fibroid embolization 
for pain control and monitoring. 
 
The patient has had symptomatic uterine fibroids with heavy 
menstrual bleeding, pelvic pain between periods, constipation, 
and a feeling of incomplete voiding. The patient underwent left 
radial artery access for bilateral uterine artery particle 
embolization to near stasis on the day of admission. The patient 
is admitted from the ___ suite post procedure for pain 
management. 

VS prior to transfer per PACU record BP 120/78 HR 92. In ___ the 
patient received 150 mg PO Zantac, 10 mg IV dexamethasone, 4 mg 
IV Zofran, 0.25 mg sublingual alprazolam, 1 gram cefazolin, 2 mg 
IV versed, 100 mcg fentanyl, and 1 gram Tylenol.  The patient 
was started on a dilaudid PCA prior to transfer to the floor. 

On the floor, the patient notes mild abdominal pain. She notes 
that she feels like she is getting hot flashes which she gets 
with her tamoxifen. She also endorses that she is itchy and 
wants to get washed up. Denies any chest pain, shortness of 
breath, nausea, vomiting, diarrhea, constipation, BRBPR. States 
she has increased urinary frequency which she attributes to 
fibroids. Denies dysuria but gets discomfort with full bladder

Review of systems:  
(+) Per HPI. Notable for black stool a few weeks prior in 
setting of constipation. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
Allergic Rhinitis
SLE (unclear diagnosis per OMR)                                  
             
Fibromyalgia                                                    
Herpes Simplex                                                  
Low Back Pain                                                   
Breast Reduction                                                
Breast Biopsy                                                   
Dysphonia                                                       
Atypical Ductal Hyperplasia 
Lupus
Arthritis
Patellofemoral Syndrome 

PAST SURGICAL HISTORY:
Breast reduction
Bunionectomy
Cyst removal from hand
Cesarean section  
 
Social History:
___
Family History:
Mother    ___      MULTIPLE MYELOMA                        
MGF       Deceased      MYOCARDIAL                              
                        INFARCTION                              
Father    Living        DIABETES ___                       
                        HYPERTENSION   
 
Physical Exam:
=============================
PHYSICAL EXAM ON ADMISSION
=============================
Vital Signs:  T 99.5 BP 105/68 HR 88 RR 17 96 RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, diffuse tenderness to palpation 
over bilateral lower quandrants, no rebound or guarding, bowel 
sounds present  
Ext: Warm, well perfused, no clubbing, cyanosis or edema. L 
radial bandage c/d/i 
Neuro: CNII-XII intact, grossly normal sensation, moving all 
extremities with purpose, gait deferred.  

=============================
PHYSICAL EXAM ON DISCHARGE
=============================
Vital Signs:   0716 T 97.8 Axillary ___ 20 98 ra 
T max 101.2 2319
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, diffuse tenderness to palpation 
over bilateral lower quandrants, no rebound or guarding, bowel 
sounds present  
Ext: Warm, well perfused, no clubbing, cyanosis or edema.
Neuro: alert, grossly normal sensation, moving all extremities 
with purpose, gait deferred. 
 
Pertinent Results:
======================
LABS ON ADMISSION
======================
___ 05:26AM BLOOD WBC-12.9*# RBC-3.57* Hgb-10.2* Hct-31.0* 
MCV-87 MCH-28.6 MCHC-32.9 RDW-11.9 RDWSD-38.2 Plt ___
___ 05:26AM BLOOD Glucose-115* UreaN-10 Creat-0.7 Na-138 
K-3.8 Cl-99 HCO3-28 AnGap-15
___ 05:26AM BLOOD Calcium-9.0 Phos-4.4 Mg-1.8
___ 09:10AM BLOOD ___

======================
LABS ON DISCHARGE
======================
___ 05:40AM BLOOD WBC-12.5* RBC-3.70* Hgb-10.6* Hct-32.2* 
MCV-87 MCH-28.6 MCHC-32.9 RDW-11.9 RDWSD-38.0 Plt ___
___ 05:40AM BLOOD Glucose-112* UreaN-11 Creat-0.7 Na-140 
K-3.7 Cl-100 HCO3-30 AnGap-14
___ 05:40AM BLOOD Calcium-8.8 Phos-3.6 Mg-1.7

======================
MICROBIOLOGY
======================
___ - Blood Culture - Pending
___ - Blood Culture - Pending
___ - Blood Culture - Pending
___ - Urine Culture - Pending

======================
IMAGING
======================
CHEST (PORTABLE AP) ___  
No acute cardiopulmonary abnormality

======================
PROCEDURE
======================
PROCEDURE: ___ 
1. Left radial artery access. 
2. Right uterine arteriogram. 
3. 3 vials of 500-700 micron particles and 2 vials of 700-900 
micron particle 
embolization embolization of the right uterine artery to near 
stasis. 
4. Left uterine arteriogram. 
5. 3.5 vials of 500-700 micron particle embolization of the left 
uterine 
artery to near stasis. 
6. Aortogram extending to the superficial femoral arteries. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
fibromyalgia, atypical ductal hyperplasia on tamoxifen, chronic 
back pain, and symptomatic uterine fibroids, SLE (unclear 
diagnosis per OMR), admitted post uterine fibroid embolization 
for pain control and vital sign monitoring.  

# bilateral lower quadrant abdominal pain  s/p uterine fibroid 
embolization:
Patient with symptomatic uterine fibroids s/p left radial artery 
access bilateral uterine artery particle embolization to near 
status. Left radial access site without bleeding. Patient with 
significant pain post procedure requiring overnight dilaudid 
PCA. Transitioned on post procedure day 1 to PO 
hydrocodone-acetaminophen, and dilaudid PCA successfully 
discontinued. However on post procedure day 2 the patient had 
continued pain despite hydrocodone-acetaminophen, and tramadol 
was added. This was because the patient had a previous 
intolerance to oxycodone, and uptitration of 
hydrocodone-acetaminophen limited by maximum acetaminophen 
dosing. The patient's pain was better controlled on this 
regimen. She was tolerating PO well and ambulating without 
difficulty prior to discharge. Sarna lotion was added for 
pruritus. Patient will be contacted by ___, and will have plans 
for 3 month follow up MRI for evaluation.

# Fever: 
Patient spiked fever overnight on post procedure day 1 to 101.2 
while receiving acetaminophen of unclear etiology. The patient 
had no pulmonary or GU symptoms. CXR negative for pneumonia, UA 
bland. Blood cultures and urine cultures were sent and pending 
on discharge. The patient remained afebrile for the remaining 
duration of the hospital course and remained hemodynamically 
stable throughout. Upon discussion with interventional 
radiology, low grade fevers likely expected post embolization, 
and were comfortable with discharge given negative infectious 
workup and improvement in pain. 

=======================
CHRONIC ISSUES
=======================
# Fibromyalgia: Patient continued home pregabalin 100 mg BID, 
duloxetine 60 mg QHS, tizanidine 4 mg daily. Patient on chronic 
hydrocodone-acetaminophen at baseline which was titrated as 
described above.

# Cognitive impairment NOS: Patient on home Namenda, confirmed 
in OMR. Continued while inpatient

# Anemia: Patient with history of normocytic anemia with 
previous workup in ___ with elevated ferritin, no iron level 
sent at the time. Patient H/H stable during the admission. 
Continued on home iron.

# GERD: Patient continued home sucralfate BID and omeprazole 
BID.

# Atypical ductal hyperplasia: Patient continued home tamoxifen 
daily.

# Depression: Patient continued home duloxetine.

# Allergic rhinitis: Patient continued fluticasone.

# Insomnia: Patient continued home trazodone.

=======================
TRANSITIONAL ISSUES
=======================
[ ] Patient should only be continued on tramadol for short 
course given medication interactions
[ ] Ensure follow up with GI given history of black stools 
reported per patient prior to admission
[ ] Check CBC at next PCP visit to trend hemoglobin in setting 
of anemia and uterine fibroid embolization
[ ] Patient will need follow up MRI in 3 months post procedure
[ ] Ensure follow up with ___ in clinic

# CODE: Full (confirmed)
# CONTACT: Father ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO BID:PRN Pain 
2. Hydrocortisone Cream 2.5% 1 Appl TP PRN facial itch 
3. Pregabalin 100 mg PO BID 
4. Tamoxifen Citrate 20 mg PO DAILY 
5. Lidocaine 5% Ointment 1 Appl TP BID:PRN painful area 
6. Tizanidine 4 mg PO QHS 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. ferrous gluconate 240 mg (27 mg iron) oral DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. ValACYclovir ___ mg PO Q12H:PRN Cold sores 
11. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q12H:PRN Pain 

12. Sucralfate 1 gm PO BID 
13. DULoxetine 60 mg PO DAILY 
14. TraZODone 50 mg PO QHS:PRN insomnia 
15. Vitamin D ___ UNIT PO 1X/WEEK (___) 
16. Omeprazole 20 mg PO Q12H 
17. Memantine 28 mg PO DAILY 

 
Discharge Medications:
1. DULoxetine 60 mg PO DAILY 
2. ferrous gluconate 240 mg (27 mg iron) oral DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Memantine 28 mg PO DAILY 
RX *memantine [Namenda XR] 28 mg 1 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*0
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO Q12H 
7. Pregabalin 100 mg PO BID 
8. Sucralfate 1 gm PO BID 
9. Tamoxifen Citrate 20 mg PO DAILY 
10. TraZODone 50 mg PO QHS:PRN insomnia 
11. Hydrocortisone Cream 2.5% 1 Appl TP PRN facial itch 
12. Lidocaine 5% Ointment 1 Appl TP BID:PRN painful area 
13. Tizanidine 4 mg PO QHS 
14. ValACYclovir ___ mg PO Q12H:PRN Cold sores 
15. Vitamin D ___ UNIT PO 1X/WEEK (___) 
16. Sarna Lotion 1 Appl TP QID:PRN itching 
17. HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN 
Pain 
Avoid drinking alcohol and driving while taking. 
RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 6 hours Disp #*16 Tablet Refills:*0
18. TraMADol 50 mg PO Q8H:PRN Pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every 8 hours Disp #*12 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute issues:
# Pain control s/p uterine fibroid embolization
# Anemia

Chronic issues:
# Fibromyalgia
# Cognitive impairment
# GERD
# Atypical ductal hyperplasia
# Depression 
# Allergic rhinitis
# Nutrition
# Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted for 
an ablation of your uterine fibroids to address your vaginal 
bleeding. You tolerated the procedure well and we treated your 
pain. You were started on a medication called tramadol for a 
short duration to help treat your pain. You had a temperature on 
the second night of your hospitalization which can be seen after 
this procedure. Your were worked up for an infection which was 
negative.

It is normal to have small amounts of vaginal bleeding over the 
next two weeks. The pain should improve over the next day. If 
you have any fever, worsening pain, chills or heavy bleeding 
please call interventional radiology at ___. You will 
need to have a follow up MRI in 3 months which the radiology 
department will help you schedule. 

Take care, and we wish you the best.

Sincerely,
Your ___ medicine team.
 
Followup Instructions:
___